US04391627
N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide
Using the procedure of Example 3, and substituting 1.6 g of 2-amino-4,6-dimethoxy-1,3,5-triazine and 2.4 g of benzothiophene-3-sulfonyl isocyanate, a yield of 3.4 g of the desired product was obtained melting at 152°. It showed absorption peaks by Nuclear Magnetic Resonance (60 MC) at; 3.95 δ (CH3O), 7-8 δ (benzohydrogens) and 8.3 δ (thiophene hydrogen) consistent for the desired compound.

reactant | 2-amino-4,6-dimethoxy-1,3,5-triazine | 1.6 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
reactant | benzothiophene-3-sulfonyl isocyanate | 2.4 g | S1C=C(C2=C1C=CC=C2)S(=O)(=O)N=C=O | C9H5NO3S2
product | N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide | yield of 3.4 g | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=CSC2=C1C=CC=C2 | C14H13N5O5S2
